US05155109
a) 4-Methanesulphonyl-2,2-dimethylpiperazine
A solution of 52.8 g of methanesulphonyl chloride in 100 ml of toluene is added dropwise to a mixture of 52.6 g of 2,2-dimethylpiperazine, 69.9 g of potassium carbonate and 150 ml of toluene, the internal temperature rising to about 55° C. After a stirring time of 3 hours, the insoluble fraction is filtered off with suction and the toluene solution is evaporated in vacuo. The oil which remains gradually solidifies and is recrystallised from isopropanol for purification.

reactant | methanesulphonyl chloride | 52.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2,2-dimethylpiperazine | 52.6 g | CC1(NCCNC1)C | C6H14N2
reactant | potassium carbonate | 69.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methanesulphonyl-2,2-dimethylpiperazine | CS(=O)(=O)N1CC(NCC1)(C)C | C7H16N2O2S
